US03952101
A solution of 600 mg. (2 mmol) of 5-benzyloxy-α-(N-t-butylaminomethyl)-2-pyridinemethanol (liberated from the hydrochloride salt) in 100 ml. of ethanol is hydrogenated over 600 mg. of 10% palladium-on-carbon at 50 psi for 10 minutes. The catalyst is filtered and ethanol evaporated to dryness. The residue is recrystallized from ethanol to give α-(t-butylaminomethyl)-5-hydroxy-2-pyridinemethanol, m.p. 163°-165°C.

reactant | 5-benzyloxy-α-(N-t-butylaminomethyl)-2-pyridinemethanol | 2 mmol | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C(O)CNC(C)(C)C | C18H24N2O2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | α-(t-butylaminomethyl)-5-hydroxy-2-pyridinemethanol | C(C)(C)(C)NCC(O)C1=NC=C(C=C1)O | C11H18N2O2
